US04668589
Tris(4-aminophenoxy)-tris(phenoxy)cyclotriphosphazene
Similarly proceeding as is described in Subpart (a) of this preparation using sufficient PtO2 and hydrogen and using the substituted triphosphazene of Preparation C, Subpart (b); Subpart (c) and Subpart (d), there is obtained the corresponding bis(4-aminophenoxy)tetrakisphenoxycyclotriphosphazene; tetrakis(4-aminophenoxy)bisphenoxycyclotriphosphazene; and pentakis(4-aminophenoxy)phenoxycyclotriphosphazene, respectively.

reactant | tetrakis(4-aminophenoxy)bisphenoxycyclotriphosphazene | NC1=CC=C(OP2(=NP(=NP(=N2)(OC2=CC=CC=C2)OC2=CC=CC=C2)(OC2=CC=C(C=C2)N)OC2=CC=C(C=C2)N)OC2=CC=C(C=C2)N)C=C1 | C36H34N7O6P3
reactant | pentakis(4-aminophenoxy)phenoxycyclotriphosphazene | NC1=CC=C(OP2(=NP(=NP(=N2)(OC2=CC=CC=C2)OC2=CC=C(C=C2)N)(OC2=CC=C(C=C2)N)OC2=CC=C(C=C2)N)OC2=CC=C(C=C2)N)C=C1 | C36H35N8O6P3
product | Tris(4-aminophenoxy)-tris(phenoxy)cyclotriphosphazene | NC1=CC=C(OP2(=NP(=NP(=N2)(OC2=CC=CC=C2)OC2=CC=C(C=C2)N)(OC2=CC=CC=C2)OC2=CC=C(C=C2)N)OC2=CC=CC=C2)C=C1 | C36H33N6O6P3
